US06649600B1
Bicyclo[2.2.2]octane-1,4-dicarboxylic acid dimethyl ester (III, Step TT)
To a stirred solution of diisopropylamine (84.5 ml, 600 mmol) in THF (anhydrous, 700 ml) cooled to −30° C. under nitrogen is added n-butyl lithium (2.5 M in hexane, 220 ml, 550 mmol) by a syringe. The misture is stirred for 30 min at −30° C. and then cooled to −78° C. HMPA (360 ml, 4 equivalents, 2 mol) is added by a syringe and a dolution of dimethyl cyclohexane-1,4-dicarboxylate (100 g, 500 mmol) in THF (anhydrous, 100 ml is added by a syringe subsequently. The mixture is stirred for an additional 40 min. Then 1-bromo-2-chloroethane (41.5 ml, 500 mmol) is added and the mixture stirred at −78° C. for an additional 20 min. The cold bath is removed and stirring is continued for 1 hr. The reaction mixture is cooled back to −78° and a mixture of HMPA (360 ml, 4 eq, 2 mol) in THF 600 ml) is added. By cannula, freshly prepared LDA (200 ml of n-butyl lithium, 2.5 M in hexane, 500 mmol is added to diisopropylamine (78 ml, 556 mmol) in THF (anhydrous, 700 ml)) is transferred into the reaction mixture at −78°. The reaction mixture is stirred at −78° for 1.33 hr followed by removal of the cooling bath and additional stirring for 5-6 hr. The mixture is quenched with saturated aqueous ammonium chloride (400 ml) and concentrated under reduced pressure at 35° to remove the THF. The residue is diluted with water (800 ml) and extracted with hexance (3×600 ml). The combined extracts are washed with saline (700 ml) and dried over sodium sulfate. Using a bath temperature of 35° the solvents are are removed under reduced pressure to give a residue. The residue is stirred with hexane (50 ml) at 20-25° for 0.5 hr. The resulting suspension is cooled to 0° for 2 hr and filtered to give the title compound.

reactant | diisopropylamine | 600 mmol, 84.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 550 mmol, 2.5 M, 220 ml | C(CCC)[Li]
reactant | HMPA | 2 mol, 360 ml, 4 equivalents | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | dimethyl cyclohexane-1,4-dicarboxylate | 500 mmol, 100 g | C1(CCC(CC1)C(=O)OC)C(=O)OC | C10H16O4
reactant | 1-bromo-2-chloroethane | 500 mmol, 41.5 ml | BrCCCl | C2H4BrCl
reactant | HMPA | 2 mol, 360 ml, 4 eq | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | LDA | 500 mmol, 2.5 M, 200 ml | [Li+].CC(C)[N-]C(C)C
solvent | THF | 700 ml | C1CCOC1 | C4H8O
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | hexane | 50 ml | CCCCCC | C6H14
product | Bicyclo[2.2.2]octane-1,4-dicarboxylic acid dimethyl ester | COC(=O)C12CCC(CC1)(CC2)C(=O)OC | C12H18O4
